US07141586B2
Boron tribromide (1M in dichloromethane, 70 ml, 70 mmol) was added dropwise to a solution of 1-(ethylsulfanyl)-3-methoxybenzene (5.9 g, 35 mmol) in dichloromethane (150 ml) at 0° C. The mixture was allowed to warm to room temperature, stirred for 18 h then cooled to 0° C. A solution of diethanolamine (20 ml) in dichloromethane (40 ml) was added dropwise (Caution—strong exotherm!) and the mixture was stirred at ambient temperature for 15 min once addition was complete, then poured onto ice water. The mixture was extracted with dichloromethane and the organic phase was washed with 2N hydrochloric acid, water, dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by flash column chromatography using ethyl acetate:cyclohexane (20:80 to 30:70) as eluant to give 3-(ethylsulfanyl)phenol (4.53 g) as a colourless oil.

reactant | Boron tribromide | 70 mmol, 1M, 70 ml | B(Br)(Br)Br | BBr3
reactant | 1-(ethylsulfanyl)-3-methoxybenzene | 35 mmol, 5.9 g | C(C)SC1=CC(=CC=C1)OC | C9H12OS
reactant | diethanolamine | 20 ml | N(CCO)CCO | C4H11NO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-(ethylsulfanyl)phenol | 4.53 g | C(C)SC=1C=C(C=CC1)O | C8H10OS
